US08080566B1
A 50-mL 3-necked round-bottomed flask was charged with a solution of 4-(1H-pyrazol-5-yl)piperidine (412 mg, 1.83 mmol, 1.50 equiv, 99%) in EtOH (10 mL). To this was added N-ethyl-N-isopropylpropan-2-amine (639 mg, 4.90 mmol, 4.00 equiv, 99%). After stirring for 30 minutes, 9H-carbazole-3-carbaldehyde (240 mg, 1.22 mmol, 1.00 equiv, 99%) was added followed by acetic acid (221 mg, 3.65 mmol, 3.00 equiv, 99%). The mixture was allowed to stir for 30 minutes at room temperature. To the mixture was then added NaBH3CN (156 mg, 2.45 mmol, 2.00 equiv, 99%). The resulting mixture was stirred for 16 hours at 40° C. in an oil bath. The reaction progress was monitored by TLC (DCM:MeOH=5:1). Upon completion, the mixture was diluted with H2O (20 mL) and, pH was adjusted to 8 with NaHCO3 (1 M). Then, the resulting solution was extracted with ethyl acetate (5×20 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated to give a residue that was purified with silica gel column chromatography eluted with dichloromethane/methanol (20:1) affording 3-((3-(1H-pyrazol-5-yl)piperidin-1-yl)methyl)-9H-carbazole as white solid (38 mg, 9%). LCMS: [M+H]+: 331. 1H NMR (DMSO-d6, 300 MHz) δ 12.42 (s, 1H), 11.20 (s, 1H), 8.11-8.09 (d, 1H), 8.00 (s, 1H), 7.48-7.33 (m, 4H), 7.11-7.16 (m, 1H), 6.03 (s, 1H), 3.64 (s, 2H), 3.01-2.98 (d, 1H), 2.86-2.82 (s, 2H), 2.09-1.90 (m, 3H), 1.67-1.57 (m, 2H), 1.41-1.37 (m, 1H).

reactant | 4-(1H-pyrazol-5-yl)piperidine | 1.83 mmol, 412 mg, 1.50 equiv | N1N=CC=C1C1CCNCC1 | C8H13N3
reactant | N-ethyl-N-isopropylpropan-2-amine | 4.90 mmol, 639 mg, 4.00 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 9H-carbazole-3-carbaldehyde | 1.22 mmol, 240 mg, 1.00 equiv | C1=CC(=CC=2C3=CC=CC=C3NC12)C=O | C13H9NO
reactant | acetic acid | 3.65 mmol, 221 mg, 3.00 equiv | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 2.45 mmol, 156 mg, 2.00 equiv | [BH3-]C#N.[Na+]
reactant | NaHCO3 | 1 M | C(=O)(O)[O-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 20 mL | O | H2O
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-((3-(1H-pyrazol-5-yl)piperidin-1-yl)methyl)-9H-carbazole | 38 mg, 9% | N1N=CC=C1C1CN(CCC1)CC=1C=CC=2NC3=CC=CC=C3C2C1 | C21H22N4
